US07105707B2
The procedure was identical to Example 2, with the exception that 3-cyanopyridine (0.208 g; 2.00 mmol) was used as a substrate instead of benzonitrile. GC analysis of the organic phase of the hydrolyzed reaction sample after 20 h at 65° C. showed the presence of 0.89 mmol (45% yield) of 3-(phenylethynyl)pyridine and no remaining 3-cyanopyridine in the reaction mixture.

reactant | 3-cyanopyridine | 2.00 mmol, 0.208 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
product | 3-(phenylethynyl)pyridine | 0.89 mmol, 45% yield | C1(=CC=CC=C1)C#CC=1C=NC=CC1 | C13H9N
